US07820699B2
101.3 To a stirred, cooled (0° C.) solution of 625 mg (3RS,4RS)-4-cyclopropyl-pyrrolidine-3-carboxylic acid methyl ester in 6 ml dichloromethane under an argon atmosphere were added 0.51 ml triethylamine and 0.30 ml pyridine. To this was added a solution of 806 mg Boc2O in 4 ml CH2Cl2 over a period of 10 min. The ice bath was removed and stirring at r.t. was continued overnight. The mixture was diluted with CH2Cl2, washed with 0.5 N HCl, H2O and brine, dried over MgSO4, filtered and concentrated. The crude product was purified by column chromatography (silica gel; cyclohexane->cyclohexane/EtOAc 3:1) to give 635 mg (3RS,4RS)-4-cyclopropyl-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester as colorless viscous oil. MS 292.1 ([M+H]+)

reactant | (3RS,4RS)-4-cyclopropyl-pyrrolidine-3-carboxylic acid methyl ester | 625 mg | COC(=O)C1CNCC1C1CC1 | C9H15NO2
reactant | triethylamine | 0.51 ml | C(C)N(CC)CC | C6H15N
reactant | pyridine | 0.30 ml | N1=CC=CC=C1 | C5H5N
reactant | Boc2O | 806 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | CH2Cl2 | 4 ml | C(Cl)Cl | CH2Cl2
product | (3RS,4RS)-4-cyclopropyl-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | 635 mg | COC(=O)C1CN(CC1C1CC1)C(=O)OC(C)(C)C | C14H23NO4
